US05488055
A mixture of 1-ethyl-6-hydroxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine (6 g), KOH (5 g), and DMSO (70 ml) was stirred for 30 minutes and then epichlorohydrin (1.5 ml) was added. The reaction mixture was stirred overnight and then was partitioned between CH2Cl2 and water. The organic layer was then separated, dried and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with ethyl acetate, followed by crystallization from hexane/ether to afford 1.0 g of 1-ethyl-6-(2,3-epoxypropoxy)-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, m.p. 160°-163° C.

reactant | 1-ethyl-6-hydroxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 6 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)O | C19H24N4O
reactant | KOH | 5 g | [OH-].[K+]
reactant | epichlorohydrin | 1.5 ml | C(Cl)C1CO1 | C3H5ClO
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | 1-ethyl-6-(2,3-epoxypropoxy)-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 1.0 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)OCC2CO2 | C22H28N4O2
